US05306827
Preparation of 2-(p-Chlorophenyl)-4-phenyl-5-(trifluoromethyl)-3-[(trifluoromethyl)sulfonyl]pyrrole
A solution of 4-(p-chlorophenyl)-2-(trifluoromethyl)-3-oxazolin-5-one (1.0 g, 3.8 mmol) and β,β-bis[(trifluoromethyl)sulfonyl]styrene (1.4 g, 3.8 mmol) in dimethylformamide is stirred for two hours at 110° C., treated with triethylamine (0.38 g, 3.8 mmol), stirred for several hours at reflux and diluted with an ethyl acetate/water mixture. The organic phase is separated, washed with water and dilute hydrochloric acid, dried over anhudrous magnesium sulfate and concentrated in vacuo to obtain a residue. Chromatography of the residue using silica gel and a 1:10 ethyl acetate/hexanes solution gives the title product as an amber oil which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | 4-(p-chlorophenyl)-2-(trifluoromethyl)-3-oxazolin-5-one | 3.8 mmol, 1.0 g | ClC1=CC=C(C=C1)C1=NC(OC1=O)C(F)(F)F | C10H5ClF3NO2
reactant | β,β-bis[(trifluoromethyl)sulfonyl]styrene | 3.8 mmol, 1.4 g | FC(S(=O)(=O)C(=CC1=CC=CC=C1)S(=O)(=O)C(F)(F)F)(F)F | C10H6F6O4S2
reactant | triethylamine | 3.8 mmol, 0.38 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 2-(p-Chlorophenyl)-4-phenyl-5-(trifluoromethyl)-3-[(trifluoromethyl)sulfonyl]pyrrole | ClC1=CC=C(C=C1)C=1NC(=C(C1S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)C(F)(F)F | C18H10ClF6NO2S
